US05686459
7.B)h) (5RS,5aRS,8aSR,8bRS)-4-[7-(Benzo[1,3]dioxol-5-ylmethyl)-6,8-dioxo-octahydro-pyrrolo[3',4':3,4]pyrrolo[1,2-c]thiazol-5-yl]-benzonitrile was prepared analogously to Example 4.B)g) from 4-cyano-benzaldehyde, L-thioproline and N-piperonylmaleimide. Colourless needles. M.p.: 142°-143° C. (methanol). ISP-MS: 434.2 ([M+H]+, 100).

reactant | 4-cyano-benzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | L-thioproline | N1[C@H](C(=O)O)CSC1 | C4H7NO2S
reactant | N-piperonylmaleimide | C(C1=CC=2OCOC2C=C1)N1C(C=CC1=O)=O | C12H9NO4
solvent | methanol | CO | CH4O
product | (5RS,5aRS,8aSR,8bRS)-4-[7-(Benzo[1,3]dioxol-5-ylmethyl)-6,8-dioxo-octahydro-pyrrolo[3',4':3,4]pyrrolo[1,2-c]thiazol-5-yl]-benzonitrile | O1COC2=C1C=CC(=C2)CN2C(C1C(C(N3CSCC31)C3=CC=C(C#N)C=C3)C2=O)=O | C23H19N3O4S
